US07482344B2
N-(3-Xanthen-9-ylidenemethyl-phenyl)-methanesulfonamide
Mix 9-Bromomethylene-9H-xanthene (400 mg, 1.46 mmol), N-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide (413 mg, 1.39 mmol), and Na2CO3 (2M/water, 1.74 mL, 3.48 mmol) in dioxane (10 mL) and sparge with nitrogen for 10 min. Add Pd(PPh3)4 (81 mg, 0.070 mmol), seal vial, and heat to 95° C. overnight. Concentrate and dilute with water (3 mL) and ethyl acetate (10 mL). Load mixture onto a Varian ChemElut CE1005 solid-phase extraction cartridge. Elute, collect, and concentrate 50 mL ethyl acetate. Purify on silica gel (20-40% ethyl acetate/hexanes), then re-purify by semi-prep reverse-phase HPLC (10-95% CH3CN/H2O, 0.1% TFA added) to afford 14 mg (3%) of the title compound as a yellow solid. MS [ES] 364 (M+H), 362 (M−H); HPLC shows 97% purity; 1H-NMR (CDCl3) δ 7.78 (d, 1H, J=7.5 Hz), 7.39-7.14 (m, 10H), 6.91 (s, 1H), 6.85 (t, 1H, J=7.5 Hz), 6.53 (s, 1H), 3.01 (s, 3H).

reactant | 9-Bromomethylene-9H-xanthene | 1.46 mmol, 400 mg | BrC=C1C2=CC=CC=C2OC=2C=CC=CC12 | C14H9BrO
reactant | N-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 1.39 mmol, 413 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | Na2CO3 | 3.48 mmol, 2M, 1.74 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.070 mmol, 81 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(3-Xanthen-9-ylidenemethyl-phenyl)-methanesulfonamide | 14 mg, 3% | C1=CC=CC=2OC3=CC=CC=C3C(C12)=CC=1C=C(C=CC1)NS(=O)(=O)C | C21H17NO3S
